US06831106B1
b) Methyl 4′-hydroxy-2-methylbiphenyl-4-carboxylate
In a manner similar to that of Example 1(h), by reaction of 1.61 g (8.7 mmol) of 4-methoxymethoxy-phenylboronic acid and 1.8 g (9.7 mmol) of 4-bromo-3-methylbenzoic acid with 26.7 mL of 2.0M potassium carbonate and 1.54 g of tetrakis(triphenylphosphine)-palladium, followed by deprotection-esterification in methanol, the desired product is obtained in the form of a colourless oil (m=2.06 g; Y=98%).

reactant | 4-methoxymethoxy-phenylboronic acid | 8.7 mmol, 1.61 g | COCOC1=CC=C(C=C1)B(O)O | C8H11BO4
reactant | 4-bromo-3-methylbenzoic acid | 9.7 mmol, 1.8 g | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | potassium carbonate | 2.0M, 26.7 mL | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
catalyst | tetrakis(triphenylphosphine)-palladium | 1.54 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Methyl 4′-hydroxy-2-methylbiphenyl-4-carboxylate | OC1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)C | C15H14O3
